US06992087B2
Preparation of 3,4-dihydro-2H-thiochromen-4-ylamine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 2,3-dihydro-4H-thiochromen-4-one and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ 7.30, 7.07, 4.07, 3.28, 2.96, 2.16, 1.61; (MS/CI) calcd for C9H11NS+H 166.3, found 166.3.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 2,3-dihydro-4H-thiochromen-4-one | S1CCC(C2=CC=CC=C12)=O | C9H8OS
product | 3,4-dihydro-2H-thiochromen-4-ylamine | S1CCC(C2=CC=CC=C12)N | C9H11NS
